US08541596B2
N-(4-Methoxybenzyl)-N-benzyl-3H-benzo[d]imidazol-5-amine
N1-Boc-N-(4-methoxybenzyl)benzimidazol-5-amine (353 mg; 1 mmol; 1 eq.) was dissolved in DMF (5 ml), treated with K2CO3 (166 mg; 1.2 mmol; 1.2 eq.) and benzylbromide (0.143 ml; 1.2 mmol; 1.2 eq.) and stirred at room temperature for 24 h. The mixture was diluted with water and extracted with ethyl acetate (3×25 ml). The combined organic layers were dried over Na2SO4 and evaporated. The remains were taken up with THF (5 ml), treated with 5 N NaOCH3 and stirred for 2 h at room temperature. The mixture was diluted with water and extracted with ethyl acetate (3×25 ml). The combined organic layers were dried over Na2SO4 and evaporated. The residue was purified by flash chromatography on silica using a CHCl3/MeOH gradient. Yield: 0.049 g (14.3%); MS m/z: 344.1 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 3.70 (s, 3H); 4.60 (s, 2H), 4.64 (s, 2H); 6.71 (d, 1H, 4J=2.1 Hz); 6.77 (dd, 1H, 4J=2.1 Hz, 3J=8.9 Hz); 6.85-6.88 (m, 2H); 7.19-7.22 (m, 3H); 7.26-7.32 (m, 4H); 7.34 (d, 1H, 3J=8.9 Hz); 7.99 (s, 1H); HPLC (METHOD [A]): rt 15.26 min (99.8%)

reactant | N1-Boc-N-(4-methoxybenzyl)benzimidazol-5-amine | 1 mmol, 353 mg, 1 eq. | C(=O)(OC(C)(C)C)N1C=NC2=C1C=CC(=C2)NCC2=CC=C(C=C2)OC | C20H23N3O3
reactant | K2CO3 | 1.2 mmol, 166 mg, 1.2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylbromide | 1.2 mmol, 0.143 ml, 1.2 eq. | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(4-Methoxybenzyl)-N-benzyl-3H-benzo[d]imidazol-5-amine | COC1=CC=C(CN(C2=CC3=C(N=CN3)C=C2)CC2=CC=CC=C2)C=C1 | C22H21N3O
